US04547584
The compound 3-hydroxy-4-methoxyphenyl benzoate was made as follows. An amount of 2.00 gms. of 3-benzyloxy-4-methoxyphenol, 1.00 gms. of triethylamine and 0.10 gms of 4-dimethylaminopyridine were dissolved in 100ml. of methylene chloride at 0° C. and stirred. To the mixture was added 1.22 gms. of benzoyl chloride and the mixture was stirred overnight. The mixture was then washed with equal volumes of 1M hydrochloric acid, saturated sodium bicarbonate and water. The mixture was then dried over magnesium sulfate and the solvent evaporated to yield 3-benzyloxy-4-methoxyphenyl benzoate.

reactant | 3-hydroxy-4-methoxyphenyl benzoate | C(C1=CC=CC=C1)(=O)OC1=CC(=C(C=C1)OC)O | C14H12O4
reactant | 3-benzyloxy-4-methoxyphenol | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)O | C14H14O3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
catalyst | 4-dimethylaminopyridine | 0.10 gms | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-benzyloxy-4-methoxyphenyl benzoate | C(C1=CC=CC=C1)(=O)OC1=CC(=C(C=C1)OC)OCC1=CC=CC=C1 | C21H18O4
